US05120738
Preparation of 4-Nitropheny 3-[N-(2,4-diacetoxy 3,3-dimethyl-1-oxobutyl)amino]propionate
Dicyclohexylcarbodiimide (15.5 g) was added to a solution of 22.6 g of 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionic acid and 10.4 g of p-nitrophenol in 500 ml of tetrahydrofuran, and the mixture was stired for one night. After completion of the reaction, insoluble matter was removed and the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl acetate. The resulting solution was washed with saturated aqueous sodium bicarbonate solution, with water and then with saturated saline, and dried over anhydrous sodium sulfate. After removing the solvent by evaporation, 10.2 g of the objectived compound was obtained as a residue (yield: 32%).

reactant | Dicyclohexylcarbodiimide | 15.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propionic acid | 22.6 g | C(C)(=O)OC(C(=O)NCCC(=O)O)C(COC(C)=O)(C)C | C13H21NO7
reactant | p-nitrophenol | 10.4 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4-Nitropheny 3-[N-(2,4-diacetoxy 3,3-dimethyl-1-oxobutyl)amino]propionate | 10.2 g, yield: 32% | C(C)(=O)OC(C(=O)NCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(COC(C)=O)(C)C | C19H24N2O9
